Name:  ___         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
codeine
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
IUD removal ___

 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, minimally TTP, no rebound/guarding
Ext: mild b/l calf TTP. no palpable cords, erythema, or edema
 
Pertinent Results:
LABS
==================
___ 02:50PM BLOOD WBC-9.4 RBC-3.55* Hgb-10.3* Hct-31.7* 
MCV-89 MCH-29.0 MCHC-32.5 RDW-12.8 RDWSD-42.4 Plt ___
___ 06:08PM BLOOD WBC-11.0* RBC-4.13 Hgb-12.3 Hct-37.3 
MCV-90 MCH-29.8 MCHC-33.0 RDW-13.2 RDWSD-43.2 Plt ___
___ 02:50PM BLOOD Neuts-73.8* Lymphs-14.6* Monos-10.7 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-6.91* AbsLymp-1.37 
AbsMono-1.00* AbsEos-0.00* AbsBaso-0.03
___ 06:08PM BLOOD Neuts-83.3* Lymphs-10.3* Monos-5.3 
Eos-0.4* Baso-0.2 Im ___ AbsNeut-9.18* AbsLymp-1.13* 
AbsMono-0.58 AbsEos-0.04 AbsBaso-0.02
___ 06:08PM BLOOD Glucose-95 UreaN-9 Creat-0.6 Na-134 K-4.7 
Cl-97 HCO3-26 AnGap-16
___ 06:08PM BLOOD ALT-13 AST-20 AlkPhos-85 TotBili-0.4
___ 06:08PM BLOOD Lipase-25
___ 02:50PM BLOOD HBsAg-Negative
___ 02:50PM BLOOD HIV Ab-Negative
___ 02:50PM BLOOD HCV Ab-Negative
___ 08:21PM BLOOD Lactate-1.0
___ 09:27PM URINE Color-Straw Appear-Clear Sp ___
___ 06:05PM URINE Color-Yellow Appear-Hazy Sp ___
___ 09:27PM URINE Blood-TR Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 06:05PM URINE Blood-SM  Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-NEG
___ 09:27PM URINE RBC-<1 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-1
___ 06:05PM URINE RBC-2 WBC-2 Bacteri-NONE Yeast-NONE 
Epi-12
___ 03:00AM URINE CT-NEG NG-NEG

MICROBIOLOGY
==================
___ 6:05 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      BETA STREPTOCOCCUS GROUP B.    >100,000 CFU/mL. 

___ 8:15 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 

___ 8:20 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 

Time Taken Not Noted     Log-In Date/Time: ___ 9:27 pm
      URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 2:50 pm SEROLOGY/BLOOD

                            **FINAL REPORT ___

   RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 

IMAGING
==================
___ CT Scan
Final Report 
INDICATION:  ___ with LLQ abdominal pain, feverNO_PO contrast// 
evaluate for 
diverticulitis or other intra-abdominal proces 
  
TECHNIQUE:  Single phase split bolus contrast: MDCT axial images 
were acquired 
through the abdomen and pelvis following intravenous contrast 
administration 
with split bolus technique. 
Oral contrast was not administered. 
Coronal and sagittal reformations were performed and reviewed on 
PACS. 
  
DOSE:  Total DLP (Body) = 1,046 mGy-cm. 
  
COMPARISON:  None. 
  
FINDINGS:  
  
LOWER CHEST: Visualized lung fields are within normal limits. 
There is no 
evidence of pleural or pericardial effusion. 
  
ABDOMEN: 
  
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  
There is no evidence of focal lesions.  There is no evidence of 
intrahepatic 
or extrahepatic biliary dilatation.  The gallbladder is 
surgically absent. 
  
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of 
focal lesions or pancreatic ductal dilatation.  There is no 
peripancreatic 
stranding. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions. 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram.  
There is no evidence of focal renal lesions or hydronephrosis.  
There is no 
perinephric abnormality. 
  
GASTROINTESTINAL: There is a small hiatal hernia.  The stomach 
is otherwise 
unremarkable.  Small bowel loops demonstrate normal caliber, 
wall thickness, 
and enhancement throughout.  Scattered diverticular noted in the 
colon, 
particularly the sigmoid without evidence of acute 
diverticulitis.  The 
appendix is normal. 
  
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is 
trace free fluid in the pelvis. 
  
REPRODUCTIVE ORGANS: IUD is identified within the uterus.  The 
right adnexae is unremarkable.  There is an oblong cystic 
structure in the left adnexum measuring 5.6 by 2.9 by 3.4 cm.  
Given oblong configuration, this may represent a hydrosalpinx.  
The left adnexae is otherwise unremarkable. 
  
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There is no pelvic or inguinal 
lymphadenopathy. 
  
VASCULAR: There is no abdominal aortic aneurysm.  No 
atherosclerotic disease is noted. 
  
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture.  Sclerosis surrounding the SI joints, more 
exuberant on the iliac side bilaterally.  Moderate degenerative 
changes seen at the hips bilaterally. 
  
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits. 
  
IMPRESSION:   
1. Oblong cystic structure in the left adnexa which given 
configuration may represent a hydrosalpinx.  Consider dedicated 
exam with pelvic ultrasound, the acuity of which can be 
determined clinically. 
2. Diverticulosis without diverticulitis. 
3. Sclerosis abutting the SI joints bilaterally which may 
represent 
sacroiliitis of versus osteitis condensans ilii. 

___ Pelvic US
Final Report 
EXAMINATION:  PELVIS, NON-OBSTETRIC 
  
INDICATION:  ___ year old woman with abdominal pain, fevers// 
evaluate oblong 
structure seen on  CT a/p, ?evidence of PID 
  
Has a Mirena IUD, distant LMP 
  
TECHNIQUE:  Grayscale ultrasound images of the pelvis were 
obtained with 
transabdominal approach followed by transvaginal approach for 
further 
delineation of uterine and ovarian anatomy. 
  
COMPARISON:  CT of the abdomen and pelvis from ___ at 
20:55 
  
FINDINGS:  
  
The uterus is anteverted and measures 7.8 x 3.9 x 5.5 cm. The 
endometrium is 
homogenous and measures 4 mm.  The IUD was demonstrated within 
the endometrial 
cavity. The IUD appears satisfactorily placed. 
  
The left ovary measures 5.3 x 3.2 x 3.0 cm.  In the left adnexa, 
two cysts 
which measure 3.3 x 2.6 x 2.6 cm and 2.0 x 1.7 x 1.8 cm are not 
seen to 
definitely communicate, one of which may contain some debris and 
a represent a 
hemorrhagic cyst. 
  
The right ovary measures 3.0 x 1.9 x 1.5 cm an appears normal.  
There is a 
trace amount of free fluid. 
  
IMPRESSION:  
  
Left ovary containing physiologic cysts, one containing 
debris/hemorrhage.. 

___ LENIS
Final Report 
EXAMINATION:  BILAT LOWER EXT VEINS 
  
INDICATION:  ___ G1P1 who presented with worsening abdominal 
pain, N/V/D, 
fevers, admitted for tx of presumed left pyosalpinx, now w/ calf 
pain// eval 
for DVT 
  
TECHNIQUE:  Grey scale, color, and spectral Doppler evaluation 
was performed 
on the bilateral lower extremity veins. 
  
COMPARISON:  None 
  
FINDINGS:  
  
There is normal compressibility, flow, and augmentation of the 
bilateral 
common femoral, femoral, and popliteal veins. Normal color flow 
and 
compressibility are demonstrated in the tibial veins.  
Evaluation of the 
peroneal veins bilaterally was limited. 
  
There is normal respiratory variation in the common femoral 
veins bilaterally. 
  
IMPRESSION:  
  
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins.  
 
Brief Hospital Course:
Ms. ___ is a ___ yo G2P1 who presented with 3 days of 
abdominal pain, pelvic cramping, 
nausea/vomiting/diarrhea/fevers, and was found to have a left 
adnexal dilated structure on CT scan, with adnexal tenderness on 
CMT. She was admitted for treatment of a presumed left 
pyosalpinx.

*) Left pyosalpinx: Pt defervesced after her initial 
presentation, with first afebrile time 18:20 on ___. She was 
started on IV Gentamicin/Clindamycin (___). Her WBC 
downtrended from 11 (___) to 9.4 (___). Given that pt remained 
afebrile and her pain improved, she was transitioned to PO 
Levofloxacin/Flagyl on ___. Her STI panel was negative for HIV, 
RPR, Hepatitis B, Hepatitis C, gonorrhea, and chlamydia.

*) Bilateral lower extremity tenderness: On ___, pt reported 
bilateral calf tenderness. She underwent lower extremity venous 
ultrasounds which did not demonstrate any evidence of DVT.

*) GBS UTI: Pt's urine culture grew group B strep. She was 
started on a 3-day course of amoxicillin (___-) to treat her 
UTI.

*) Contraception: Pt underwent removal of her IUD at the 
bedside. She elected to use the patch for contraception. Pt was 
made aware of decreased efficacy of the patch for contraception 
in the setting of obesity. She remained interested in the patch 
as she uses this method primarily for cycle control. She is not 
currently sexually active.

By hospital day #3, Ms. ___ was afebrile, her 
abdominal pain was minimal, she was tolerating a regular diet 
without nausea/vomiting, and she was ambulating independently. 
She was discharged home in stable condition with outpatient 
follow-up scheduled.
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
do not exceed 4000mg in 24 hours 
RX *acetaminophen 500 mg 1 tablet(s) by mouth every 6 hours Disp 
#*30 Tablet Refills:*1 
2.  Amoxicillin 500 mg PO Q12H 
RX *amoxicillin 500 mg 1 tablet(s) by mouth twice daily Disp #*5 
Tablet Refills:*0 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Patient is NPO or unable to 
tolerate PO
take with food 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*30 Tablet Refills:*1 
4.  Levofloxacin 500 mg PO Q24H 
RX *levofloxacin [Levaquin] 500 mg 1 tablet(s) by mouth daily 
Disp #*14 Tablet Refills:*0 
5.  MetroNIDAZOLE 500 mg PO BID 
RX *metronidazole [Flagyl] 500 mg 1 tablet(s) by mouth twice 
daily Disp #*28 Tablet Refills:*0 
6.  Xulane (norelgestromin-ethin.estradiol) 150-35 mcg/24 hr 
transdermal 1X/WEEK 
RX *norelgestromin-ethin.estradiol [___] 150 mcg-35 ___ on the skin once a week Disp #*4 Patch Refills:*2 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pyosalpinx
Urinary tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to the Gynecology Service with abdominal pain 
and fevers. You were treated for a pyosalpinx (infection of the 
fallopian tubes) with IV antibiotics, and have been transitioned 
to oral antibiotics. Your IUD was removed. 

You were found to have a urinary tract infection. Please take 
the amoxicillin as prescribed to treat this infection.

You have overall recovered well and are ready for discharge. 
Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 2 
weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

Contraception:
* You elected to start the patch for birth control and are 
provided a prescription. Please change the patch once a week.
* You may use the patch for three weeks in a row and then take 
one week off for a period, or you may elect to continuously use 
the patch.
* You are eligible for another IUD should you choose one in 3 
months. 
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___